Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],4.61260050901
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:7],4.894290408490001
[C:6]([H:7])([O:8][C:9]([H:10])([H:11])[H:12])=[C:13]([H:14])[H:15].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])[H:15],-1.01407062701
[C:7]([H:8])([H:9])[H:10].[H:1][C:2]([H:3])([H:4])[C:5]=[O:6]>>[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[H:10],-0.7962600229189999
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17]>>[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17].[H:1][O:2][C:3]([H:4])[H:5],3.75928169976
[O:1]=[C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:2](=[C:3]([H:4])[C:5]([H:6])[H:7])=[O:11].[O:1]([C:8]([H:9])[H:10])[H:12],3.26522290371
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:10].[H:1]/[C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],2.00240784353
[C:3]([H:4])#[C:5][O:6][C:7]([H:8])([H:9])[O:10][H:11].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])[C:5][O:6][C:7]([H:8])([H:9])[O:10][H:11],-4.61572683142
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([C:8]([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[C:7](=[C:8]([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:1][C:2]([H:3])=[C:4]([H:5])[H:6],-1.47999997
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11]/[C:12]([H:13])([H:14])[H:15]>>[H:10].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]#[C:11][C:12]([H:13])([H:14])[H:15],1.91855922977
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8],3.59751263181
[O:1]=[C:2]([C:3]([H:4])([H:5])[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:5].[O:1]=[C:2]([C:3]([H:4])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],1.78959841335
[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])[H:11]>>[C:2](#[C:3][C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])[H:11].[O:1],2.5766087898500003
[H:1][O:2][C:3].[O:4]=[C:5]([H:6])[C:7]([H:8])[H:9]>>[H:1][O:2][C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9],-3.42722827423
[C:2]#[C:3][C:4]([O:5][H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1]>>[H:1][C:2]#[C:3][C:4]([O:5][H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-5.86653908992
[H:8].[O:1]=[C:2]([H:3])[O:4][C:5](=[C:6][H:7])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([H:3])[O:4][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-5.21074746341
[H:1][O:2][C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1].[O:2]=[C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],1.6451199872100002
[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[O:11][O:12]>>[H:1][C:2][C:3]1([C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[O:11][O:12]1,0.88283946515
[H:1][O:2][C:3]([H:4])=[C:6]=[C:7]([H:8])[O:9][C:10]([H:11])[H:12].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[O:9][C:10]([H:11])[H:12],-1.18720756107
[C:7]([H:8])([H:9])=[C:10][C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]=[C:4]([H:5])[H:6]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],0.26767145859
[H:1][O:2][C:3]#[C:4][C:5]([O:6][H:7])=[C:8]([H:9])[H:10]>>[H:1][O:2][C:3]#[C:4][C:5](=[O:6])[C:8]([H:9])[H:10].[H:7],3.80341355971
[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]([C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:5],1.43967167396
[O:1]=[C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[O:8][H:9]>>[H:6].[O:1]=[C:2]=[C:3]([H:4])[C:5]#[C:7][O:8][H:9],2.38220390526
[C:1]#[C:2][C:3](=[C:4]=[O:5])[C:7]([H:8])([H:9])[H:10].[H:6]>>[C:1]#[C:2][C:3]([C:4][O:5][H:6])[C:7]([H:8])([H:9])[H:10],-1.03824107797
[H:10].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.21126922681
[C:4]([H:5])([H:6])[H:7].[O:1]=[C:2]([O:3])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-3.88486624349
[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])[H:8])[C:10]([C:9])([H:11])[H:12]>>[H:1][O:2][C@:3]1([H:4])[O:5][C:6]([H:7])([H:8])[C:9][C:10]1([H:11])[H:12],-3.66289881292
